US09029536B2
15 [4-(1-Ethyl-1H-pyrazolo[4,3-b]pyridin-3-yl)phenyl] (1-methyl-1H-benzimidazol-2-yl)methanone
A suspension of 1H-benzimidazol-2-yl[4-(1-ethyl-1H-pyrazolo[4,3-b]pyridin-3-yl)phenyl]methanone (147 mg), MeI (0.037 mL), and K2CO3 (111 mg) in DMF (1.5 ml) was stirred overnight at 40° C. The reaction mixture was poured into water and extracted with AcOEt. The extract was washed with brine, dried over MgSO4, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (hexane/AcOEt) and crystallized from hexane/AcOEt to give the title compound (139 mg).

reactant | 1H-benzimidazol-2-yl[4-(1-ethyl-1H-pyrazolo[4,3-b]pyridin-3-yl)phenyl]methanone | 147 mg | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)C2=NN(C=1C2=NC=CC1)CC | C22H17N5O
reactant | MeI | 0.037 mL | CI | CH3I
reactant | K2CO3 | 111 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | [4-(1-Ethyl-1H-pyrazolo[4,3-b]pyridin-3-yl)phenyl] (1-methyl-1H-benzimidazol-2-yl)methanone | 139 mg | C(C)N1N=C(C2=NC=CC=C21)C2=CC=C(C=C2)C(=O)C2=NC1=C(N2C)C=CC=C1 | C23H19N5O
